US08633313B2
To a solution of 5-fluoro-3-nitropicolinaldehyde (12.5 g, 73.48 mmol) in toluene (220 mL) were added p-toluene sulfonic acid (698 mg, 3.67 mmol) and ethylene glycol (20.7 mL, 367.43 mmol) at 25° C. The reaction mixture was heated to 120° C. for overnight and water was removed using dean-stark apparatus. Reaction mass was cooled to 25° C. Water was added to the reaction mass and extracted with EtOAc. Organic layer was washed with brine and dried over Na2SO4. The organic layer was concentrated in vacuo and purified by column chromatography on silica gel using 0-10% EtOAc in hexane to give 2-(1,3-dioxolan-2-yl)-5-fluoro-3-nitropyridine: 1H NMR (400 MHz, DMSO-d6): δ 4.02 (s, 4H), 6.22 (s, 1H), 8.939 (d, 1H, J=1.2 Hz); LC-MS (ESI) m/z 215.1 [M+H]+.

reactant | 5-fluoro-3-nitropicolinaldehyde | 73.48 mmol, 12.5 g | FC=1C=C(C(=NC1)C=O)[N+](=O)[O-] | C6H3FN2O3
reactant | p-toluene sulfonic acid | 3.67 mmol, 698 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 367.43 mmol, 20.7 mL | C(CO)O | C2H6O2
reactant | Water | O | H2O
solvent | toluene | 220 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1,3-dioxolan-2-yl)-5-fluoro-3-nitropyridine | O1C(OCC1)C1=NC=C(C=C1[N+](=O)[O-])F | C8H7FN2O4
